US08247403B2
(2) 7-(2-methylphenyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 7-(2-methylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (200 mg, 0.589 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (133 mg, 82.1%) as a solid.

reactant | tert-butyl 7-(2-methylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.589 mmol, 200 mg | CC1=C(C=CC=C1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C21H25NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 7-(2-methylphenyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 133 mg, 82.1% | Cl.CC1=C(C=CC=C1)C=1C=CC2=C(CNCCO2)C1 | InChI=1S/C16H17NO.ClH/c1-12-4-2-3-5-15(12)13-6-7-16-14(10-13)11-17-8-9-18-16;/h2-7,10,17H,8-9,11H2,1H3;1H
